US08217177B2
A 250 mL RB flask was charged with 1-(quinolin-6-yl)ethanone (3.82 g, 22.3 mmol) and 30% HBr/AcOH (45.0 ml). Bromine (1.14 ml, 22.1 mmol) was added slowly. This was stirred at room temperature for 4 hours, at which point full conversion to product (with a small amount of dibrominated side product) was observed. The reaction mixture was filtered and the solid was washed with Et2O to give 2-bromo-1-(quinolin-6-yl)ethanone hydrobromide (5.6359 g, 76.3% yield).

reactant | 1-(quinolin-6-yl)ethanone | 22.3 mmol, 3.82 g | N1=CC=CC2=CC(=CC=C12)C(C)=O | C11H9NO
reactant | HBr AcOH | 45.0 ml | Br.CC(=O)O
reactant | Bromine | 22.1 mmol, 1.14 ml | BrBr | Br2
product | 2-bromo-1-(quinolin-6-yl)ethanone hydrobromide | 5.6359 g, 76.3% yield | Br.BrCC(=O)C=1C=C2C=CC=NC2=CC1 | InChI=1S/C11H8BrNO.BrH/c12-7-11(14)9-3-4-10-8(6-9)2-1-5-13-10;/h1-6H,7H2;1H
